US05047540
To a solution of 200 mg (0.341 mM) of 2-methoxy-1-octadecylcarbamoyloxy-3-(2-methanesulfonyloxyethylsulfonylamino)propane VIa4' in 5 ml of acetone is added 200 mg (1.33 mM) of sodium iodide and the mixture is refluxed with stirring for 5 hours. After the solvent is evaporated, the residue is purified by the column chromatography on silica gel with a n-hexane-ethyl acetate (2:1) mixture as an eluent to give 188 mg (0.296 mM) of 3-(2-iodoethylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane IIa4 in 87% yield.

reactant | 2-methoxy-1-octadecylcarbamoyloxy-3-(2-methanesulfonyloxyethylsulfonylamino)propane | 0.341 mM, 200 mg | COC(COC(NCCCCCCCCCCCCCCCCCC)=O)CNS(=O)(=O)CCOS(=O)(=O)C | C26H54N2O8S2
reactant | sodium iodide | 1.33 mM, 200 mg | [I-].[Na+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(2-iodoethylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 0.296 mM, 188 mg, 87% yield | ICCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C25H51IN2O5S
